US09422263B2
4,4-Difluoro-3-oxohexanenitrile
A flame-dried flask was charged with 2.9 ml (4.6 mmol) of n-butyllithium solution (1.6 M in hexanes) in dry THF (14 ml) under inert gas atmosphere and cooled to −78° C. Next, 0.213 ml (4.06 mmol) acetonitrile were slowly added, and the resulting mixture was stirred for 1 h at −70° C. Then, 0.40 g (2.9 mmol) methyl 2,2-difluorobutanoate were slowly added over 5 min maintaining the temperature below −69° C. The reaction mixture was stirred for 2 h at −45° C. and then quenched by addition of 2 N hydrochloric acid (4.8 ml) while keeping the temperature below −20° C. The resulting clear solution was allowed to warm to room temperature and then concentrated under reduced pressure. The crude product thus obtained (2.5 g of 17% purity, 98% of th.) was stored at −21° C. and used in the next step without further purification.

reactant | n-butyllithium | 4.6 mmol, 1.6 M, 2.9 ml | C(CCC)[Li]
reactant | acetonitrile | 4.06 mmol, 0.213 ml | C(C)#N | C2H3N
reactant | methyl 2,2-difluorobutanoate | 2.9 mmol, 0.40 g | FC(C(=O)OC)(CC)F | C5H8F2O2
solvent | THF | 14 ml | C1CCOC1 | C4H8O
product | 4,4-Difluoro-3-oxohexanenitrile | FC(C(CC#N)=O)(CC)F | C6H7F2NO
